US07297700B2
c) 7-Benzyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine
7-Benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (9.83 g, 38 mmol) was dissolved in solution of NH3 in MeOH (7N, 60 mL) in a re-sealable tube. The sealed tube was heated at 100° C. for 21 h. The reaction was cooled to room temperature and kept standing at room temperature for 48 h which led to the precipitation of the desired product 7-benzyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine. (5.1 g, 56%). The mother liquor was evaporated and dried under vacuum to yield a mixture of 4.12 g of desired product together with the side product 7-benzyl-4-methoxy-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine.

reactant | 7-Benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 38 mmol, 9.83 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)Cl | C14H14ClN3
reactant | 7-benzyl-4-methoxy-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)OC | C15H17N3O
solvent | NH3 | N | H3N
solvent | MeOH | 7N, 60 mL | CO | CH4O
product | 7-Benzyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 4.12 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)N | C14H16N4
